US07595359B2
Tributyl-{3-[2-(2,6-diethyl-4-hydroxy-2,3,6-trimethyl-piperidine-1-yloxy)-propionyloxy]-propyl}-phosphonium-bromide (Compound 113, Table 1)
Tributylphosphine (3 ml, 0.012 mol) is added to a solution of 2-(2,6-diethyl-4-hydroxy-2,3,6-trimethyl-piperidine-1-yloxy)-propionic acid 3-bromo-propyl ester (4.08 g, 0.01 mol) in acetonitrile (5 ml). The solution is stirred under argon at 60° C. for 23 h. The solvent is evaporated and the residue is triturated with diethyl ether (2×15 ml) to remove the excess of the phosphine. Drying of the oily, in ether insoluble, residue affords 6.45 g of the title compound as a thick resin.

reactant | Tributylphosphine | 0.012 mol, 3 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 2-(2,6-diethyl-4-hydroxy-2,3,6-trimethyl-piperidine-1-yloxy)-propionic acid 3-bromo-propyl ester | 0.01 mol, 4.08 g | BrCCCOC(C(C)ON1C(C(C(CC1(C)CC)O)C)(C)CC)=O | C18H34BrNO4
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | Tributyl-{3-[2-(2,6-diethyl-4-hydroxy-2,3,6-trimethyl-piperidine-1-yloxy)-propionyloxy]-propyl}-phosphonium-bromide | 6.45 g | [Br-].C(CCC)[P+](CCCOC(C(C)ON1C(C(C(CC1(C)CC)O)C)(C)CC)=O)(CCCC)CCCC | InChI=1S/C30H61NO4P.BrH/c1-10-15-20-36(21-16-11-2,22-17-12-3)23-18-19-34-28(33)26(7)35-31-29(8,13-4)24-27(32)25(6)30(31,9)14-5;/h25-27,32H,10-24H2,1-9H3;1H/q+1;/p-1
